US05147863
1,1'-Bis[[2-(trimethylsilyl)ethoxy]methyl]-2,2'-bi-1Himidazole
Under a blanket of nitrogen, 8.2 g (0.172 moles) 50% sodium hydride was washed with hexane. The flask was charged with 250 ml dry N,N-dimethylformamide and 11.5 g (0.086 moles) 2,2'-bi-1H-imidazole was added in small portions. After stirring at room temperature for 11/2 hours 30.8 g (0.185 moles) 2-(trimethylsilyl)ethoxymethyl chloride (SEM-Cl) was added dropwise. The reaction exothermed slightly. The reaction was stirred for 1 hour then quenched with water and extracted into ethyl acetate (3×200 ml). The combined organic layers were shaken with water (2×300 ml), dried (anhydrous sodium sulfate) and concentrated to give 33.4 g tan oil. The product was purified by preparative HPLC (ethyl acetate) to give 26.9 g (79.2%) desired product as a light tan oil. A small portion was distilled. bp 260° C. at 0.2 mm.

reactant | sodium hydride | 0.172 moles, 8.2 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | 2,2'-bi-1H-imidazole | 0.086 moles, 11.5 g | N1C(=NC=C1)C=1NC=CN1 | C6H6N4
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.185 moles, 30.8 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | hexane | CCCCCC | C6H14
product | 1,1'-Bis[[2-(trimethylsilyl)ethoxy]methyl]-2,2'-bi-1Himidazole | 33.4 g | C[Si](CCOCN1C(=NC=C1)C=1N(C=CN1)COCC[Si](C)(C)C)(C)C | C18H34N4O2Si2
